US09085583B2
Pyrrolidine (0.12 mol, 8.3 g) was added to stirred solution of 2-bromopropanoyl chloride (0.58 mol, 10 g) in dichloromethane (200 ml) at 0° C. After 0.5 hour, the reaction mixture was warmed to room temperature, stirred for 2 hours, and saturated ammonium chloride solution (20 ml) was added. The solvent was evaporated and the mixture was extracted with ethyl acetate (200 ml). The organic phase was separated, dried over anhydrous sodium sulfate, filtered and concentrated to dryness. The residue was purified by column chromatography (silica gel, dichloromethane/methanol=55:1) to give 2-bromo-1-(pyrrolidin-1-yl)propan-1-one (9.8 g, 93%). LCMS (M+H+) m/z: calcd 205.01. found 205.

reactant | Pyrrolidine | 0.12 mol, 8.3 g | N1CCCC1 | C4H9N
reactant | 2-bromopropanoyl chloride | 0.58 mol, 10 g | BrC(C(=O)Cl)C | C3H4BrClO
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | 2-bromo-1-(pyrrolidin-1-yl)propan-1-one | 9.8 g, 93% | BrC(C(=O)N1CCCC1)C | C7H12BrNO
